US04264593
C. Methyl tris(p-t-amylphenyl)phosphonium Bromide
A mixture containing 28.3 g (0.06 mole) of tris(p-t-amylphenyl)phosphine, 28.5 g (0.3 mole) of methyl bromide and 200 cc of benzene was prepared and stored at ambient temperature for 24 hours. The solvent was then removed under reduced pressure and the solid residue was stirred together with a quantity of diethyl ether for one hour. The recovered solid material weighed 33 g (97% yield) after drying and was found to contain 71.3% carbon, 8.44% hydrogen, 5.15% phosphorus and 14.0% bromine. The calculated values for the expected compound are 72.0% carbon, 8.47% hydrogen, 5.47% phosphorus and 14.1% bromine.

reactant | tris(p-t-amylphenyl)phosphine | 0.06 mole, 28.3 g | C(C)(C)(CC)C1=CC=C(C=C1)P(C1=CC=C(C=C1)C(C)(C)CC)C1=CC=C(C=C1)C(C)(C)CC | C33H45P
reactant | methyl bromide | 0.3 mole, 28.5 g | CBr | CH3Br
solvent | benzene | 200 cc | C1=CC=CC=C1 | C6H6
product | Methyl tris(p-t-amylphenyl)phosphonium Bromide | 97% yield | [Br-].C[P+](C1=CC=C(C=C1)C(C)(C)CC)(C1=CC=C(C=C1)C(C)(C)CC)C1=CC=C(C=C1)C(C)(C)CC | InChI=1S/C34H48P.BrH/c1-11-32(4,5)26-14-20-29(21-15-26)35(10,30-22-16-27(17-23-30)33(6,7)12-2)31-24-18-28(19-25-31)34(8,9)13-3;/h14-25H,11-13H2,1-10H3;1H/q+1;/p-1
